US05435991
N,N-bis-(2-hydroxyethyl)-3,5-bis-(1,1-dimethyl ethyl)-4-hydroxybenzenecarboxamide
3,5-bis-(1,1-dimetyletyl)-4-hydroxybenzenecarboxylic acid (2.5. g, 0.010 mol) and diethanolamine (1.05 g, 0.010 mol) were dissolved in 30 ml of dry dimethylformamide and dicyclohexylcarbodiimide (2.13 g, 0.0105 mol) in 10 ml of dry dimethylformamide was added over 5 minutes. After stirring overnight, the resulting colorless suspension was filtered, and the filtrate was evaporated, 3×25 ml of benzene was added and reevaporated to yield a white solid which was recrystallised from toluene.

reactant | 3,5-bis-(1,1-dimetyletyl)-4-hydroxybenzenecarboxylic acid | 0.010 mol | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(=O)O | C15H22O3
reactant | diethanolamine | 0.010 mol, 1.05 g | N(CCO)CCO | C4H11NO2
reactant | dicyclohexylcarbodiimide | 0.0105 mol, 2.13 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N,N-bis-(2-hydroxyethyl)-3,5-bis-(1,1-dimethyl ethyl)-4-hydroxybenzenecarboxamide | OCCN(C(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)CCO | C19H31NO4
